US06300353B1
A mixture of (3R)-2-(2,5-difluorophenyl)-3-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)-1-(1H-1,2,4-triazol-1-yl)-2-butanol (43.9 g, 0.124 mol) and PPTS (15.6 g, 62.1 mmol) in EtOH ( 400 ml ) was stirred at 55° C. for 5 hrs. The mixture was was evaporated to remove solvent down to 100 ml. The residue was poured into ice-aqueous NaHCO3 (500 ml). The whole was extracted with EtOAc (400 ml+200 ml×2). The combined organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was chromatographed on silicagel (CH2Cl2: MeOH=20:1) to give (2R,3R)-2-(2,5-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol (18.0 g, 54%).

reactant | (3R)-2-(2,5-difluorophenyl)-3-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 0.124 mol, 43.9 g | FC1=C(C=C(C=C1)F)C(CN1N=CN=C1)([C@@H](C)OC1OCCCC1)O | C17H21F2N3O3
reactant | PPTS | 62.1 mmol, 15.6 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | EtOH | 400 ml | CCO | C2H6O
product | (2R,3R)-2-(2,5-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2,3-butanediol | 18.0 g, 54% | FC1=C(C=C(C=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)O)O | C12H13F2N3O2
